US09034880B2
A mixture of 3-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)propanoic acid (100 mg, 0.34 mmol), morpholine (29 mg, 0.34 mmol), DCC (77 mg, 0.37 mmol), and DMAP (46 mg, 0.37 mmol) in dry DCM (2.5 mL) was stirred at room temperature for 3 h. The reaction mixture was filtered through Celite and concentrated by rota vapor to obtain 10 mg of 3-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)-1-morpholinopropan-1-one as TFA salt after purification by reverse-phase chromatography (C-18, 500 mm×50 mm, Mobile Phase A=0.05% TFA in water, B=0.05% TFA in acetonitrile, Gradient: 10% B to 80% B in 30 min, injection vol. 5 mL).

reactant | 3-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)propanoic acid | 0.34 mmol, 100 mg | ClC1=CC=2C3=C(N(C2C=C1)CCC(=O)O)CCN(C3)C | C15H17ClN2O2
reactant | morpholine | 0.34 mmol, 29 mg | N1CCOCC1 | C4H9NO
reactant | DCC | 0.37 mmol, 77 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 0.37 mmol, 46 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 3-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)-1-morpholinopropan-1-one | 10 mg | ClC1=CC=2C3=C(N(C2C=C1)CCC(=O)N1CCOCC1)CCN(C3)C | C19H24ClN3O2
